US05661160
Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(4-methoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
Prepare by the method of example 27.3.1 using 2-[3-(3,4-dichloro-phenyl)-1-(4-methoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (0.63 mmol) and 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride (0.3 g). Purify by chromatographed on silica gel eluting sequentially with 50% ethyl acetate/hexane, 4% methanol/dichloromethane, and then 6% methanol/dichloromethane to give the title compound:

reactant | 2-[3-(3,4-dichloro-phenyl)-1-(4-methoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 0.63 mmol | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC=C(C=C1)OC)=O)CCCS(=O)(=O)[O-]
reactant | 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | 0.3 g | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(4-methoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC=C(C=C1)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C32H35Cl2N3O3
